US09445594B2
Preparation of 1-(2-isopropylphenyl)-3-(3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propyl)thiourea (F76)
In a 25 mL flask, to a solution of 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine (0.160 g, 0.442 mmol) in dichloromethane (2 mL) was added 1-isopropyl-2-isothiocyanatobenzene (0.156 g, 0.530 mmol) in dichloromethane (5 mL) followed by triethylamine (0.062 mL, 0.442 mmol). The reaction mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate and adsorbed onto Celite®. Purification by flash column chromatography provided the title compound as a white solid (110 mg, 49%).

reactant | 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine | 0.442 mmol, 0.160 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CCCN)(F)F | C18H17F3N4O
reactant | 1-isopropyl-2-isothiocyanatobenzene | 0.530 mmol, 0.156 g | C(C)(C)C1=C(C=CC=C1)N=C=S | C10H11NS
reactant | triethylamine | 0.442 mmol, 0.062 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-isopropylphenyl)-3-(3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propyl)thiourea | 110 mg, 49% | C(C)(C)C1=C(C=CC=C1)NC(=S)NCCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C28H28F3N5OS
